US04696931
5,6-Dimethyl-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)benzimidazole semihydrochloride
Prepared analogously to Example 14 from 4,5-dimethyl-1,2-phenylenediamine and 2-methoxy-4-methanesulfonylaminobenzoic acid.

reactant | 4,5-dimethyl-1,2-phenylenediamine | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | 2-methoxy-4-methanesulfonylaminobenzoic acid | COC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C | C9H11NO5S
product | 5,6-Dimethyl-2-(2'-methoxy-4'-methanesulfonylamino-phenyl)benzimidazole | CC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)NS(=O)(=O)C)OC)C=C1C | C17H19N3O3S
